US04963568
Step 3: 1-Aminomethyl-3-cyclohexyl-3,4-dihydro-5,6-dihydroxy-naphthalene hydrobromide
1-Aminomethyl-3-cyclohexyl-3,4-dihydro-5,6-dimethoxy-naphthalene hydrochloride (2.7 g, 8.9 mmol), from Step 2, was dissolved in 72 mL of methylene chloride and cooled to -78° C. Boron tribromide (36 mL of a 1 M solution in methylene chloride) was added and the reaction mixture was warmed to 0° C. for 1 h. The reaction mixture was cooled aqain to -78° C. and 30 mL of methanol was added. After stirring at ambient temperature for 1 h, the reaction mixture was concentrated, diluted with methanol and reconcentrated. The residue was dissolved in methanol and the methanol solution was added dropwise to an excess amount of diethyl ether. The precipitate was filtered and recrystallized from ethanol/ether to give 2.2 g ( 79% yield) of the title compound, m.p. 212°-213° C. 1H NMR (d6DMSO) delta 1.0-1.4 (m, 7H), 1.55-1.9 (m, 6H), 2.05-2.15 (m, 1H), 2.47 (dd, 1H), 2.74 (dd, 1H), 5.83 (d, 1H), 6.60 (m, 2H).

reactant | 1-Aminomethyl-3-cyclohexyl-3,4-dihydro-5,6-dimethoxy-naphthalene hydrochloride | 8.9 mmol, 2.7 g | Cl.NCC1=CC(CC2=C(C(=CC=C12)OC)OC)C1CCCCC1
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 30 mL | CO | CH4O
solvent | methylene chloride | 72 mL | C(Cl)Cl | CH2Cl2
product | 1-Aminomethyl-3-cyclohexyl-3,4-dihydro-5,6-dihydroxy-naphthalene hydrobromide | 2.2 g, 79% yield | Br.NCC1=CC(CC2=C(C(=CC=C12)O)O)C1CCCCC1 | InChI=1S/C17H23NO2.BrH/c18-10-13-8-12(11-4-2-1-3-5-11)9-15-14(13)6-7-16(19)17(15)20;/h6-8,11-12,19-20H,1-5,9-10,18H2;1H
